US05659059
3.0 g (20 mmol) of n-pentyl bromide was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 7.5 g (20 mmol) of 4'-(4-methoxy-4-silacyclohexyl)-2,2'-difluoro-4-propoxybiphenyl to obtain 4'-(trans-4-n-pentyl-4-silacyclohexyl)-2, 2'-difluoro-4-propoxybiphenyl. The silacyclohexane rings of this product were a mixture of trans and cis isomers. They were separated by means of chromatography to obtain 7.1 g of the trans isomer (yield 86%).

reactant | n-pentyl bromide | 20 mmol, 3.0 g | C(CCCC)Br | C5H11Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4'-(4-methoxy-4-silacyclohexyl)-2,2'-difluoro-4-propoxybiphenyl | 20 mmol, 7.5 g | CO[SiH]1CCC(CC1)C1=CC(=C(C=C1)C1=C(C=C(C=C1)OCCC)F)F | C21H26F2O2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4'-(trans-4-n-pentyl-4-silacyclohexyl)-2, 2'-difluoro-4-propoxybiphenyl | yield 86% | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C1=C(C=C(C=C1)OCCC)F)F | C25H34F2OSi
